US05733912
9a. 7a-(5-pyrimidinyl)-hexahydro-1H-pyrrolizine
A solution of 1.7M tBuLi (1.6 mL, 2.6 mmol) in pentane was added to 5-bromopyrimidine (190 mg, 1.2 mmol) in Et2O:THF (1:1, 12 mL) at -100° C. After stirring for 10 minutes, 1,2,3,5,6,7-hexahydropyrrolizinium perchlorate (500 mg, 2.4 mmol) was added to the reaction slurry, and stirring was continued for 30 minutes. The reaction mixture was then allowed to warm to 0° C. and stir for 1 hour. A solution of 2N HCl was added, and the reaction mixture was poured over Et2O and the phases separated. The aqueous phase was basified with 15% NaOH solution and extracted with CH2Cl2 (2×). The CH2Cl2 phases were combined, dried (MgSO4), concentrated, and the residue was chromatographed (silica gel; CHCl3 /MeOH, 98:2) to afford a clear oil (40 mg, 18%). MS (CI/NH3) m/e: 190 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ1.60-1.73 (m, 2H), 1.82-2.11 (m, 6H), 2.66-2.75 (m, 2H), 3.15-3.21 (m, 2H), 8.85 (s, 2H), 9.05 (s,1H).

reactant | tBuLi | 2.6 mmol, 1.7M, 1.6 mL | [Li]C(C)(C)C
reactant | 5-bromopyrimidine | 1.2 mmol, 190 mg | BrC=1C=NC=NC1 | C4H3BrN2
reactant | 1,2,3,5,6,7-hexahydropyrrolizinium perchlorate | 2.4 mmol, 500 mg | Cl(=O)(=O)(=O)[O-].C1CC[N+]=2CCCC12
reactant | HCl | 2N | Cl | ClH
solvent | pentane | CCCCC | C5H12
solvent | Et2O THF | 12 mL | CCOCC.C1CCOC1
solvent | Et2O | CCOCC | C4H10O
product | 7a-(5-pyrimidinyl)-hexahydro-1H-pyrrolizine | 40 mg, 18% | N1=CN=CC(=C1)C12CCCN2CCC1 | C11H15N3
